US06242450B1
1-(3-(indol-4-yloxy)prop-1-yl)-4-(quinolin-3-yl)piperidine
Beginning with 0.175 gm (0.83 mMol) 3-chloropropyl indol-4-yl ether and 0.177 gm (0.83 mMol) 4-(quinolin-3-yl)piperidine, 0.217 gm (68%) of the title compound were recovered as an off-white solid.

reactant | 3-chloropropyl indol-4-yl ether | 0.83 mMol, 0.175 gm | N1C=CC2=C(C=CC=C12)OCCCCl | C11H12ClNO
reactant | 4-(quinolin-3-yl)piperidine | 0.83 mMol, 0.177 gm | N1=CC(=CC2=CC=CC=C12)C1CCNCC1 | C14H16N2
product | 1-(3-(indol-4-yloxy)prop-1-yl)-4-(quinolin-3-yl)piperidine | 0.217 gm, 68% | N1C=CC2=C(C=CC=C12)OCCCN1CCC(CC1)C=1C=NC2=CC=CC=C2C1 | C25H27N3O
